US05132310
Trifluoroacetic anhydride, 5.6 ml, was added to a solution of 4 g of 3,4-dihydro-2H-1,4-benzoxazine [H. Shirai et al. Nagoya Shiritsu Daigaku Takugakubu Kenkyu Nempo 17, 50 (1969)] in 50 ml of methylene chloride, layered with 75 ml of 10% agueous sodium carbonate solution. The mixture was stirred in an ice bath for 30 minutes. The methylene chloride layer was separated, washed with brine, dried and evaporated. Crystallization from hexane gave 3,4-dihydro4-(trifluoroacetyl)-2H-1,4-benzoxazine with m.p. 58°-60°.

reactant | Trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 3,4-dihydro-2H-1,4-benzoxazine | 4 g | O1CCNC2=C1C=CC=C2 | C8H9NO
reactant | sodium carbonate | 75 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3,4-dihydro4-(trifluoroacetyl)-2H-1,4-benzoxazine | FC(C(=O)N1CCOC2=C1C=CC=C2)(F)F | C10H8F3NO2
